US04517186
2-Amino-3,5-dicyano-6-(dimethylamino)pyrazine
The starting material, 2-amino-6-chloro-3,5-dicyanopyrazine (100 mg; 0.557 mM), is prepared in accordance with the method described by Perchais and Fleury in Tetrahedron, 30:999-1009 (1974), and stirring in 1 ml of dry tetrahydrofuran. There was then added dropwise 0 54 ml of a chilled solution of dimethylamine gas in tetrahydrofuran (93 mg/ml) over 10 minutes. The reaction mixture was then stirred at room temperature for 0.5 hours; the product was removed by centrifuging, and then recrystallized from 1:1 ethanol/i-propanol (50 mg); m.p. 201°-202° C.

reactant | 2-amino-6-chloro-3,5-dicyanopyrazine | 0.557 mM, 100 mg | NC1=NC(=C(N=C1C#N)C#N)Cl | C6H2ClN5
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 2-Amino-3,5-dicyano-6-(dimethylamino)pyrazine | NC1=NC(=C(N=C1C#N)C#N)N(C)C | C8H8N6
